US07214714B2
A solution of the test compound adjusted to 1 μM using DMSO was added to a 50 mM of 3-morpholinopropanesulfonic acid buffer (MOPS) (pH 7.4) containing 5 mM of magnesium chloride and 1 mM of sodium ethylenediaminetetraacetate (EDTA), then human renal microsome fraction (Human Cell Culture Center, Anatomic Gift Foundation), [5,6,8,9,11,12,15]tritium-arachidonic acid and NADPH were added thereto as an enzymatic source, a substrate and a coenzyme, respectively and reaction was carried out at 37° C. for 1.5 hours. Formic acid was added to the reaction solution to stop the reaction and then acetonitrile was added thereto (final concentration: 50%). Amount of 20-HETE produced thereby was measured using a high performance liquid chromatography equipped with a radioactive substance detector having an ODS column (Biosil C18; manufactured by Biorad).

reactant | 3-morpholinopropanesulfonic acid | 50 mM, pH 7.4 | O1CCN(CC1)CCCS(=O)(=O)O | C7H15NO4S
reactant | magnesium chloride | 5 mM | [Cl-].[Mg+2].[Cl-]
reactant | sodium ethylenediaminetetraacetate | 1 mM | C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
reactant | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | Formic acid | C(=O)O | CH2O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DMSO | CS(=O)C | C2H6OS
product | 20-HETE | C(CC/C=C\C/C=C\C/C=C\C/C=C\CCCC(=O)O)CCO | C20H32O3
